US06939885B2
Synthesis of 4-Acetyl-N-[4-chloro-2-(2-methyl-pyridine-3-carbonyl)-phenyl]-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using (2 amino-5-chloro-phenyl)-(2-methyl-pyridin-3-yl)-methanone and 4-acetyl-benzenesulfonyl chloride and purified by HPLC. 1H NMR (CDCl3) δ 10.79 (br s, 1H, NH), 8.65 (dd, 1H, J=4.8 Hz, J=1.8 Hz), 7.98 (d, 2H, J=8.8 Hz), 7.92 (d, 2H, J=8.8 Hz), 7.79 (d, 1H, J=9.2 Hz), 7.50 (dd, 1H, J=9.0 Hz, J=2.2 Hz), 7.22 (dd, 1H, J=7.7 Hz, J=1.5 Hz), 7.16 (m, 2H), 2.60 (s, 3H), 2.36 (s, 3H). MS: m/z 429 (M+1).

reactant | (2 amino-5-chloro-phenyl)-(2-methyl-pyridin-3-yl)-methanone | NC1=C(C=C(C=C1)Cl)C(=O)C=1C(=NC=CC1)C | C13H11ClN2O
reactant | 4-acetyl-benzenesulfonyl chloride | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H7ClO3S
product | 4-Acetyl-N-[4-chloro-2-(2-methyl-pyridine-3-carbonyl)-phenyl]-benzenesulfonamide | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)C=1C(=NC=CC1)C | C21H17ClN2O4S
